US07648983B2
(S)-N-(4-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide
To a 97° C. solution of (S)-N-(4-(3-bromo-4-fluorophenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide (0.067 g, 0.15 mmoles, 1.0 equiv) in 1,2-dimethoxyethane (1.5 mL), ethanol (0.7 mL) and water (1.0 mL) is added pyrimidine-5-boronic acid (0.095 g, 0.77 mmoles, 5.0 equiv), cesium carbonate (0.301 g, 0.92 mmoles, 6.1 equiv) and bis(triphenylphoshine)palladium (II) chloride (0.022 g, 0.03 mmoles, 0.2 equiv). The reaction mixture is stirred at 97° C. for 20 minutes. After cooling to room temperature, the reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The solvent is removed under reduced pressure and the residue is purified by silica gel flash column chromatography eluting with a linear gradient of dichloromethane to 15% ethyl acetate: dichloromethane to give the title compound (46% yield): MS (m/z): 435 (M+1).

reactant | (S)-N-(4-(3-bromo-4-fluorophenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide | 0.15 mmoles, 0.067 g, 1.0 equiv | BrC=1C=C(C=CC1F)[C@]1(N=C(SC(C1)(C)C)NC(C1=CC=CC=C1)=O)C | C20H20BrFN2OS
reactant | pyrimidine-5-boronic acid | 0.77 mmoles, 0.095 g, 5.0 equiv | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 0.92 mmoles, 0.301 g, 6.1 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | 1,2-dimethoxyethane | 1.5 mL | COCCOC | C4H10O2
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
solvent | water | 1.0 mL | O | H2O
catalyst | bis(triphenylphoshine)palladium (II) chloride | 0.03 mmoles, 0.022 g, 0.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (S)-N-(4-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4,6,6-trimethyl-5,6-dihydro-4H-1,3-thiazin-2-yl)benzamide | 46% yield | FC1=C(C=C(C=C1)[C@]1(N=C(SC(C1)(C)C)NC(C1=CC=CC=C1)=O)C)C=1C=NC=NC1 | C24H23FN4OS
